US07790712B2
4-Methyl-3-nitro-benzoic acid (71 g, 0.39 mol) was dissolved in dry EtOH (600 mL) and dry HCl gas was bubbled into the solution for 5 min. The reaction was heated to 90° C. under N2 for 20 h, then cooled and concentrated to give 4-methyl-3-nitro-benzoic acid ethyl ester as a straw-color liquid (80.0 g, yield 98%).

reactant | 4-Methyl-3-nitro-benzoic acid | 0.39 mol, 71 g | CC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C8H7NO4
reactant | EtOH | 600 mL | CCO | C2H6O
product | 4-methyl-3-nitro-benzoic acid ethyl ester | C(C)OC(C1=CC(=C(C=C1)C)[N+](=O)[O-])=O | C10H11NO4
